US07642356B2
Preparation of ethyl 2,4,5-trifluorobenzoylacetate
To 10 □ of 1,2-dichloroethane were added 1.0 g of 2,4,5-trifluorobenzonitrile, 0.43 g of zinc chloride, and 1.3 g of potassium ethylmalonate, and then the mixture was stirred at reflux. After the reaction was completed, 11 □ of 6 N hydrochloric acid was added to the mixture, which then was stirred at reflux at 90° C. for 1 hour. After confirming completion of the reaction by TLC, the solution was cooled to 20° C., and then an organic layer was separated therefrom. The organic layer was concentrated through distillation under reduced pressure. Thus resulted residue was purified by silica gel column chromatography (eluent: ethylacetate/n-hexane=1/10, v/v) to obtain the title compound in the yield of 80% (1.2 g).

reactant | 2,4,5-trifluorobenzonitrile | 1.0 g | FC1=C(C#N)C=C(C(=C1)F)F | C7H2F3N
reactant | potassium ethylmalonate | 1.3 g | C(C)C(C(=O)[O-])C(=O)[O-].[K+].[K+]
reactant | hydrochloric acid | 6 N | Cl | ClH
reactant | 1,2-dichloroethane | ClCCCl | C2H4Cl2
catalyst | zinc chloride | 0.43 g | [Cl-].[Zn+2].[Cl-]
product | ethyl 2,4,5-trifluorobenzoylacetate | yield of 80% | FC1=C(C(=O)CC(=O)OCC)C=C(C(=C1)F)F | C11H9F3O3
